US05563277
A. Preparation of 3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-2-mercaptopropanoic acid
To 114.5 g of 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl]-2-thioxo-4-thiazolidinone, 815 ml of 2M sodium hydroxide was added. The resultant mixture was heated to reflux temperature over the course of one hour and maintained at reflux for 2 hours. The mixture was cooled in an ice/water bath to 15° C. and 290 ml of 6M hydrochloric acid was added dropwise under a nitrogen atmosphere over 15 minutes, keeping the temperature of the mixture below 16° C. The resultant solid was dissolved by adding 600 ml of ethyl acetate to the mixture. The organic layer was separated, washed 3 times with 100 ml of saturated sodium chloride solution, dried over sodium sulfate and then the solvent was removed in vacuo to yield 100.3 g (100% of yield) of the subtitled intermediate. mp 137°-140° C.

reactant | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl]-2-thioxo-4-thiazolidinone | 114.5 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC1C(NC(S1)=S)=O | C18H25NO2S2
reactant | sodium hydroxide | 2M, 815 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6M, 290 ml | Cl | ClH
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-2-mercaptopropanoic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(C(=O)O)S | C17H26O3S
